US08420661B2
Step 1: 2-Methyl-1-(6-phenylethynyl-pyridazin-3-ylamino)-propan-2-ol
A solution of 3-chloro-6-(phenylethynyl)pyridazine (CAS 77778-15-5) (300 mg, 1.4 mmol) and 1-amino-2-methylpropan-2-ol (137 mg, 147 μl, 1.54 mmol, 1.1 equiv.) in 3 ml of pyridine was heated 20 hours at 120° C. in a sealed tube. The solvent was removed in vaccuo. The residue was taken up in ethyl acetate/methanol, adsorbed onto 4 g of silica and purified on a 20 g flash chromatography column using a heptane to ethyl acetate gradient to yield 90 mg (24% yield) of the title compound as a crystalline light yellow solid, MS: m/e=268.2 (M+H+).

reactant | 3-chloro-6-(phenylethynyl)pyridazine | 1.4 mmol, 300 mg | ClC=1N=NC(=CC1)C#CC1=CC=CC=C1 | C12H7ClN2
reactant | 1-amino-2-methylpropan-2-ol | 1.54 mmol, 147 μl, 137 mg, 1.1 equiv. | NCC(C)(O)C | C4H11NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-1-(6-phenylethynyl-pyridazin-3-ylamino)-propan-2-ol | 90 mg, 24% yield | CC(CNC=1N=NC(=CC1)C#CC1=CC=CC=C1)(C)O | C16H17N3O
